US06903126B2
6-[[1-Phenyl-2-propanesulfinyl-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester
80 mg of 6-[[1-phenyl-2-propylmercapto-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester was dissolved in 2 ml of dichloromethane, mixed with 56 mg of m-chloroperbenzoic acid (about 60%), and the mixture was stirred for 10 minutes at 20° C. It was mixed with sodium disulfite solution, extracted twice with dichloromethane, the combined organic phases were washed with saturated sodium bicarbonate solution, water and saturated sodium chloride solution, dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue was purified by column chromatography on silica gel. 30 mg was obtained.

reactant | 6-[[1-phenyl-2-propylmercapto-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | 80 mg | COC(CCCCCOC=1C=CC2=C(N(C(=N2)SCCC)C2=CC=CC=C2)C1)=O | C23H28N2O3S
reactant | m-chloroperbenzoic acid | 56 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium disulfite | S(=O)([O-])OS(=O)[O-].[Na+].[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 6-[[1-Phenyl-2-propanesulfinyl-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | COC(CCCCCOC=1C=CC2=C(N(C(=N2)S(=O)CCC)C2=CC=CC=C2)C1)=O | C23H28N2O4S
